US05569654
Ethyl-(4-fluoro-phenyl)-amine
Iodoethane (3.6 ml) was added to a mixture of 4-fluoroaniline (4.26 ml) and potassium carbonate (6.9 g) in dry DMF (100 ml). After 18.5 h at 23°, the resulting suspension was poured into water (400 ml) and extracted with EA (400 ml). The organic extract was washed with water (200 ml) then saturated brine (200 ml), dried and evaporated. The residual oil was chromatographed with 2 to 3 to 4% EA in hexane as eluent to give the title compound (3.667 g) as a yellow oil.

reactant | Iodoethane | 3.6 ml | ICC | C2H5I
reactant | 4-fluoroaniline | 4.26 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Ethyl-(4-fluoro-phenyl)-amine | 3.667 g | C(C)NC1=CC=C(C=C1)F | C8H10FN
